US07351743B1
5-Acenaphthyl Cyanamide
5-aminoacenaphthene (7.0 g, 41.4 mmol) was dissolved in a mixture of ether (100 mL) and ethyl acetate (25 mL). To this solution was added 5.2 mL of a 5 M solution of cyanogen bromide in acetonitrile (25.6 mmol of cyanogen bromide). The solution was stirred overnight, with the gradual appearance of gray precipitate. The solid was removed by filtration (the hydrobromide of 5-aminoacenaphthene) and the resulting filtrate concentrated in vacuo to afford a semi-solid residue. Ether (60 mL) was added to the residue and the mixture was stirred overnight. The solid was removed (more hydrobromide of 5-aminoacenaphthene) and the filtrate concentrate to approximately 20 mL and then diluted with warm cyclohexane (15 mL). Upon standing at room temperature, off-white crystals were deposited. They were collected, washed with cyclohexane-ether (1:1) and dried in vacuo to give 1.5 g of pure product, mp: 163-65° C.

reactant | 5-aminoacenaphthene | 41.4 mmol, 7.0 g | NC1=CC=C2CCC=3C=CC=C1C32 | C12H11N
reactant | cyanogen bromide | N#CBr | CBrN
reactant | acetonitrile | 25.6 mmol | C(C)#N | C2H3N
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | Ether | 60 mL | CCOCC | C4H10O
product | 5-Acenaphthyl Cyanamide | 1.5 g | C1CC2=CC=C(C3=CC=CC1=C23)NC#N | C13H10N2
